US08022063B2
(5-Bromo-2-hydroxyphenyl)-(1-pyridin-2-yl-1H-pyrazol-4-yl)ketone.
To a suspension of 6-bromo-3-formylchromone (253 mg) in isopropanol (3 mL) and CH2Cl2 (2 mL) was added 2-hydrazinopyridine (109 mg), and the mixture was stirred for 15 min to form a yellow slurry. The slurry was added KOH (0.25 g) in water (0.25 mL), and the reaction was heated to reflux for 1 h. The reaction mixture was diluted with water, added 3% HCl until pH<1 and extracted with CH2Cl2 (2×). The extract was washed with water and brine, dried (MgSO4) and concentrated to give 342 mg orange foam, which was purified by flash chromatography (SiO2, EA:Hep, 1:1) to give 53 mg (15%) yellow solid: LC/MS (an10p8): Rt 5.0 min, m/z 343.5 [M+H]+; 1H NMR (CDCl3): δ 6.98 (d, J=8.9 Hz, 1H), 7.31 (ddd, J=7.3, 4.9, 0.9 Hz, 1H), 7.60 (dd, J=8.9, 2.5 Hz, 1H), 7.87-7.93 (m, 1H), 8.03 (d, J=2.4 Hz, 1H), 8.04-8.09 (m, 1H), 8.02 (s, 1H), 8.47-8.51 (m, 1H), 9.13 (s, 1H), 11.94 (s, 1H); 13C NMR (CDCl3): δ 110.9, 113.3, 120.8, 121.6, 122.8, 123.1, 130.5, 133.5, 138.9, 139.3, 143.3, 148.7, 161.9, 191.4.

reactant | 6-bromo-3-formylchromone | 253 mg | BrC=1C=C2C(C(=COC2=CC1)C=O)=O | C10H5BrO3
reactant | 2-hydrazinopyridine | 109 mg | N(N)C1=NC=CC=C1 | C5H7N3
reactant | KOH | 0.25 g | [OH-].[K+]
reactant | HCl | Cl | ClH
solvent | isopropanol | 3 mL | C(C)(C)O | C3H8O
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | water | 0.25 mL | O | H2O
product | (5-Bromo-2-hydroxyphenyl)-(1-pyridin-2-yl-1H-pyrazol-4-yl)ketone | 342 mg | BrC=1C=CC(=C(C1)C(=O)C=1C=NN(C1)C1=NC=CC=C1)O | C15H10BrN3O2
